US05112968
1-Methylhydrazinecarboxylic acid phenylmethyl ester
To an ice cold, stirred solution of 36.8 (0.8 mol; 42.49 ml) methylhydrazine and 161.6 g (1.6 mol, 224 ml) triethylamine in 700 ml tetrahydrofuran were added dropwise 136.5 g (0.8 mol, 113.6 ml) benzylchloroformate. After stirring at room temperature overnight, the tetrahydrofuran was evaporated and the residue was worked up with ethylacetate/water (pH=9.0. Insoluble material was removed by filtration and the organic phase was washed (H2O), dried (MgSO4) and evaporated. The oily residue was stirred with 1 1. of ether, the etherial solution was decanted from insoluble material and evaporated to give 61 g of an oil which was dissolved in 200 ml MeOH containing 25 ml conc. HCl. After evaporation to dryness, the residue was recrystallized from EtOH/ ethylacetate to give 22.0 g of the hydrochloride of 2 as colorless crystals. This material was dissolved in water and the pH was adjusted to 9.0. Extraction with ethylacetate, drying of the organic phase (MgSO4) and evaporation yielded 19.0 g of the title compound as a colorless oil.

reactant | methylhydrazine | CNN | CH6N2
reactant | triethylamine | 1.6 mol, 224 ml, 161.6 g | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 0.8 mol, 113.6 ml, 136.5 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 1-Methylhydrazinecarboxylic acid phenylmethyl ester | 61 g | C1(=CC=CC=C1)COC(=O)N(N)C | C9H12N2O2
